US09340547B2
b) Methyl 3-formyl-1-(phenylsulfonyl)-1H-pyrrole-2-carboxylate
To a solution of methyl 1-(phenylsulfonyl)-3-vinyl-1H-pyrrole-2-carboxylate (1640 mg, 5.63 mmol) in 45 ml of tetrahydrofurane were added 4-methylmorpholine 4-oxide (1.36 g, 11.3 mmol) and 2,4 ml (0.39 mmol) of a 4% aqueous solution of osmium tetraoxide and the reaction was leaved with stirring at room temperature overnight. Afterwards, the starting material was completely consumed and the reaction mixture was filtered through a pad of Celite® using tetrahydrofurane. The filtrate was evaporated to dryness, taken up with ethyl acetate and washed with water and brine. The organic layer was dried (Na2SO4) and concentrated to give a brown residue that was immediately submitted to the next step. In this sense, this residue was dissolved in tetrahydrofurane (28 ml) and water (3,4 ml) and solid sodium periodate (1.8 g, 8.4 mmol) was added stirring the reaction vigorously at room temperature overnight. Next day, a suspension was formed and reaction was finished. The work-up was done by adding 4% aqueous solution of sodium bicarbonate (200 ml) and extracting with ethyl acetate (3×). The organic mixture was washed with water and brine, dried (Na2SO4) and concentrated to dryness to give a residue that was purified by flash chromatography silica (hexane/ethyl acetate) to give a 1.46 g (88% yield) of the title compound.

reactant | methyl 1-(phenylsulfonyl)-3-vinyl-1H-pyrrole-2-carboxylate | 5.63 mmol, 1640 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=C(C=C1)C=C)C(=O)OC | C14H13NO4S
reactant | 4-methylmorpholine 4-oxide | 11.3 mmol, 1.36 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium periodate | 8.4 mmol, 1.8 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofurane | 45 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 28 ml | O1CCCC1 | C4H8O
catalyst | osmium tetraoxide | [Os](=O)(=O)(=O)=O
solvent | water | 3,4 ml | O | H2O
product | Methyl 3-formyl-1-(phenylsulfonyl)-1H-pyrrole-2-carboxylate | 1.46 g, 88% yield | C(=O)C1=C(N(C=C1)S(=O)(=O)C1=CC=CC=C1)C(=O)OC | C13H11NO5S
